US04034090
3-Acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene (7.7 g.) is dissolved in distilled water (100 cc.) and sodium bicarbonate (1.64 g.). A solution of 4-methyl-2-thioxo-1,3-thiazoline (2.76 g.) in distilled water (75 cc.) and sodium bicarbonate (1.64 g.) is added and the resulting solution is heated to 60° C. for 6 hours. After cooling, it is acidified to pH 5.5 by adding 4 N hydrochloric acid and then extracted with ethyl acetate (100 cc.), which is discarded. The acidification is continued to pH 2 in the presence of ethyl acetate (300 cc.). After decanting the organic phase, the aqueous phase is extracted twice with ethyl acetate (a total of 200 cc.). The organic extracts are washed twice with water (200 cc.), dried over magnesium sulphate, treated with decolourising charcoal and then filtered and concentrated to dryness under reduced pressure (20 mm Hg). The residue obtained is dissolved in methanol (30 cc.) and this solution is then added to isopropyl ether (200 cc.). A product precipitates and is isolated by filtration to give 2-carboxy-3-[(4-methyl-1,3-thiazol-2-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (2 g.).

reactant | 3-Acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene | 7.7 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1SC(SC1)=O)=O)=O)C(=O)O | C15H14N2O7S3
reactant | 4-methyl-2-thioxo-1,3-thiazoline | 2.76 g | CC1=NC(SC1)=S | C4H5NS2
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | isopropyl ether | 200 cc | C(C)(C)OC(C)C | C6H14O
solvent | water | 100 cc | O | H2O
solvent | sodium bicarbonate | 1.64 g | C([O-])(O)=O.[Na+]
solvent | water | 75 cc | O | H2O
solvent | methanol | 30 cc | CO | CH4O
solvent | sodium bicarbonate | 1.64 g | C([O-])(O)=O.[Na+]
product | 2-carboxy-3-[(4-methyl-1,3-thiazol-2-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 2 g | C(=O)(O)C=1N2C(C(C2SCC1CSC=1SC=C(N1)C)NC(CC=1SC(SC1)=O)=O)=O | C17H15N3O5S5
